US04041032
To 20 ml. of methanol there was added 1.0 g of methyl 3-methoxy-5,6-dimethylpyrazine-2-carboxylate and 1.5 g of 2-aminomethyl-1-ethylpyrrolidine and the mixture was refluxed for 30 hours. The methanol was distilled off under reduced pressure from the reaction mixture, the residue thus obtained was added to a mixture of 20 ml. of water and 20 ml of dichloromethane and mixed well. The organic layer that was separated was acidified with an aqueous hydrochloric acid and extracted three times each time with 20 ml. of water. The aqueous extracts were combined basified with a 2 N aqueous sodium hydroxide and extracted three times each time with 20 ml. of dichloromethane. The dichloromethane extracts were combined, dried over anhydrous magnesium sulfate and then the solvent was distilled off. The residue thus obtained was applied to a silica gel column chromatography and then developed using a mixture of chloroform and methanal in a 1:1 volume ratio as the eluting solution, whereby 0.8 g. of light yellow oily N-(1 -ethylpyrrolidin-2-ylmethyl)-3-methoxy-5,6-dimethylpyrazine-2-carboxamide was obtained.

reactant | methanol | CO | CH4O
reactant | methyl 3-methoxy-5,6-dimethylpyrazine-2-carboxylate | 1.0 g | COC=1C(=NC(=C(N1)C)C)C(=O)OC | C9H12N2O3
reactant | 2-aminomethyl-1-ethylpyrrolidine | 1.5 g | NCC1N(CCC1)CC | C7H16N2
reactant | methanal | C=O | CH2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-(1 -ethylpyrrolidin-2-ylmethyl)-3-methoxy-5,6-dimethylpyrazine-2-carboxamide | C(C)N1C(CCC1)CNC(=O)C1=NC(=C(N=C1OC)C)C | C15H24N4O2
